### PR TITLE
subset_itv

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Motivation for this change

This is a generalization of `subset_itv` specialized for classical sets, like the previous two lemmas `subset_itvl` and `subset_itvr` in the same file, which are also simplified in this PR.

A proper generalization of `subset_itv` is to be pushed to math-comp and linked here.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/set_interval.v [hunk 1]
```diff
@@ -77,30 +77,18 @@ Qed.
...
-    by move=> /lt_le_trans; exact.
-  by move=> /le_lt_trans; exact.
-- rewrite !in_itv/= => /andP[->/=].
-  case: b bc => [[|]/=|[|]//] b bc.
-    by move=> /ltW /le_trans; apply.
-  by move=> /le_trans; apply.
-- by move: x; rewrite le_ninfty => /eqP ->.
-- by rewrite !in_itv/=; case: a => [[|]/=|[|]//] a /andP[->].
-Qed.
+Proof. by move=>/subitvPr /subsetP h; apply/subsetP => x /h. Qed.
```
Comment (proux01) [inline classical/set_interval.v:80]:
```suggestion
Proof. by move=> /subitvPr /subsetP h; apply/subsetP => x /h. Qed.
```

File: classical/set_interval.v [hunk 2]
```diff
@@ -77,30 +77,18 @@ Qed.
...
 
 Lemma subset_itvr (a b c : itv_bound T) : (c <= a)%O ->
   [set` Interval a b] `<=` [set` Interval c b].
+Proof. by move=>/subitvPl /subsetP h; apply/subsetP => x /h. Qed.
```
Comment (proux01) [inline classical/set_interval.v:84]:
```suggestion
Proof. by move=> /subitvPl /subsetP h; apply/subsetP => x /h. Qed.
```

File: classical/set_interval.v [hunk 3]
```diff
@@ -77,30 +77,18 @@ Qed.
...
+
+Lemma subset_itv (x y z u : itv_bound T) :
+  (x <= y)%O -> (z <= u)%O -> [set` Interval y z] `<=` [set` Interval x u].
```
Comment (proux01) [inline classical/set_interval.v:87]: I'd rather keep using a b c d than x y z u.

File: classical/set_interval.v [hunk 4]
```diff
@@ -77,30 +77,18 @@ Qed.
...
-move=> ac x/=; rewrite !in_itv/= => /andP[ax ->]; rewrite andbT.
-move: c a ax ac => [[|] c [[|]/= a ax|[|]//=]|[//|]]; rewrite ?bnd_simp.
-- by move=> /le_trans; exact.
-- by move=> /le_trans; apply; exact/ltW.
-- by move=> /lt_le_trans; exact.
-- by move=> /le_lt_trans; exact.
-- by move=> [[|]|[|]//].
+move=> xy zu.
+by apply: (@subset_trans _ [set` Interval x z]);
+  [exact: subset_itvr | exact: subset_itvl].
```
Comment (proux01) [inline classical/set_interval.v:91]: `by move=> ac bd; apply/(subset_trans (subset_itvl _))/subset_itvr.`

**Review by proux01 — APPROVED** [review]
